US04235809
The imine from benzaldehyde and benzylamine (19.5 g; 0.1 mole) was dissolved in pyridine (9 g) and phosphorous acid (8.2 g; 0.1 mole) was added. The mixture was heated at reflux for 3 hours, cooled, basified and extracted with benzene. The residue was acidified to yield a white solid. Crystallization gave N-benzyl α-amino benzylphosphonic acid mp 233°-4°. Phosphorus nmr of a basified aqueous solution gave a peak at -15.9 ppm (relative to 85% H3PO4) consistent with the assigned structure given in Example 1.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzylamine | 0.1 mole, 19.5 g | C(C1=CC=CC=C1)N | C7H9N
reactant | phosphorous acid | 0.1 mole, 8.2 g | P(O)(O)O | H3O3P
solvent | pyridine | 9 g | N1=CC=CC=C1 | C5H5N
product | N-benzyl α-amino benzylphosphonic acid | C(C1=CC=CC=C1)NC(C1=CC=CC=C1)P(O)(O)=O | C14H16NO3P
